US05677302
Synthesis of 3-methyl-1,2,4-thiadiazolo[4,5-a]benzimidazole
2-Butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one (1.00 g, 4.04 mmol) was refluxed in 100 mL acetonitrile for 18 h. The solvent was then evaporated and the residue was recrystallized from methanol to give 0.671 g (88%) of the title compound: mp 192°-193° C.; 1H NMR (CDCl3) δ7.81 (dm, 2H), 7.47 (td, 1H), 7.34 (td, 1H), 2.92 (s, 3H) ppm; IR (KBr) ν1564, 1481, 1453, 1430, 1304, 1208, 756, 745 cm-1 ; MS m/z 189 (M+), 148 (M+ -CH3CN).

reactant | 2-Butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one | 4.04 mmol, 1.00 g | C(CCC)N1SC2=NC3=C(N2C1=O)C=CC=C3 | C12H13N3OS
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-methyl-1,2,4-thiadiazolo[4,5-a]benzimidazole | 0.671 g, 88% | CC1=NSC2=NC3=C(N21)C=CC=C3 | C9H7N3S
